US07977327B2
(3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine
Under cooling with ice, titanium tetrachloride (3.30 mL, 1.0M toluene solution) was added to a suspension of zinc powder (1.86 g, 28.5 mmol) in tetrahydrofuran (15 mL) over 2 minutes, followed by stirring for 5 minutes at the same temperature. A solution of diiodomethane (1.15 mL, 14.3 mL) in tetrahydrofuran (5 mL) was added thereto over 8 minutes, and the resultant mixture was stirred for 15 minutes while the temperature thereof was elevated to room temperature. A solution of (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-formylpyrrolidine (900 mg, 2.58 mmol) in tetrahydrofuran (5.0 mL) was added thereto over 7 minutes, followed by stirring for 1.5 hours. Subsequently, under cooling with ice, the resultant mixture was poured to 0.5 mol/L hydrochloric acid (10 mL), followed by dilution with diethyl ether (60 mL). The obtained aqueous layer was extracted with diethyl ether (100 mL×2). The combined organic layer was washed by saturated brine (100 mL), dried over anhydrous sodium sulfate, filtered, concentrated under reduced pressure. The obtained residue was purified through silica gel column chromatography (ethyl acetate:n-hexane=1:3), to thereby yield the title compound as a colorless oily substance (3.09 g, 31%).

reactant | diiodomethane | 1.15 mL | ICI | CH2I2
reactant | (3S,4S)-1-benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-formylpyrrolidine | 2.58 mmol, 900 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C=O)NC(=O)OC(C)(C)C | C18H24N2O5
reactant | hydrochloric acid | 0.5 mol/L, 10 mL | Cl | ClH
reactant | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
catalyst | titanium tetrachloride | 1.0M, 3.30 mL | [Ti](Cl)(Cl)(Cl)Cl
catalyst | zinc | 28.5 mmol, 1.86 g | [Zn] | Zn
product | (3S,4S)-1-Benzyloxycarbonyl-3-(tert-butoxycarbonyl)amino-4-vinylpyrrolidine | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)C=C)NC(=O)OC(C)(C)C | C19H26N2O4
